US03987052
In the manner given in Example 2, 7-chloro-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepine-2-thione is heated in ethanol with isobutyric acid hydrazide and the resulting product heated to 250° C. to give 8-chloro-1-isopropyl-6-phenyl-4H-s-triazolo-[4,3-a][1,4]benzodiazepine.

reactant | 7-chloro-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepine-2-thione | ClC=1C=CC2=C(C(=NCC(N2)=S)C2=CC=CC=C2)C1 | C15H11ClN2S
reactant | isobutyric acid hydrazide | C(C(C)C)(=O)NN | C4H10N2O
solvent | ethanol | C(C)O | C2H6O
product | 8-chloro-1-isopropyl-6-phenyl-4H-s-triazolo-[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)C(C)C)C3=CC=CC=C3)C1 | C19H17ClN4
